US07700628B2
G. 5-Fluoro-N-(2-fluorophenyl)-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide
A solution of 2-fluoroaniline (22.1 mg, 0.18 mmol) in dry THF (1 mL) was treated with a 1 M diethyl ether solution of allyl magnesium bromide (0.2 mL). The reaction was stirred for 5 minutes before adding 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one (25 mg, 0.06 mmol) in THF (1 mL). The reaction was stirred overnight at ambient temperature, concentrated to dryness and mixed with saturated aqueous NaHCO3 (1 mL) and CH2Cl2 (2 mL). The mixture was filtered through a plug of diatomaceous earth and treated with an isocyanate resin (methylisocyanate polystyrene HL, 0.360 mmol) overnight. Purification consisted of applying this mixture directly onto a column of silica and eluting with 1% MeOH in CHCl3.

reactant | 2-fluoroaniline | 0.18 mmol, 22.1 mg | FC1=C(N)C=CC=C1 | C6H6FN
reactant | allyl magnesium bromide | 0.2 mL | C(C=C)[Mg]Br
reactant | 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one | 0.06 mmol, 25 mg | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
reactant | isocyanate | 0.360 mmol | [N-]=C=O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 1 M | C(C)OCC | C4H10O
product | 5-Fluoro-N-(2-fluorophenyl)-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide | FC=1C=CC(=C(C(=O)NC2=C(C=CC=C2)F)C1)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O | C30H32F2N4O3
